US04060615
N-(Cyclobutylcarbonyl)piperazine (0.02 mole) and 2-chloro-4-amino-6,7-dimethoxyquinazoline (0.02 mole) are reacted according to the procedure of Example 1(a). When reaction is complete, the solvent is removed and the residue crystallized from methanolisopropanol to provide analytically pure 4-amino-2-[4-(cyclobutylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline hydrochloride hydrate, m.p. 267°-268° C. (dec.)(corr.).

reactant | N-(Cyclobutylcarbonyl)piperazine | 0.02 mole | C1(CCC1)C(=O)N1CCNCC1 | C9H16N2O
reactant | 2-chloro-4-amino-6,7-dimethoxyquinazoline | 0.02 mole | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
product | 4-amino-2-[4-(cyclobutylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline hydrochloride hydrate | O.Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1CCC1 | InChI=1S/C19H25N5O3.ClH.H2O/c1-26-15-10-13-14(11-16(15)27-2)21-19(22-17(13)20)24-8-6-23(7-9-24)18(25)12-4-3-5-12;;/h10-12H,3-9H2,1-2H3,(H2,20,21,22);1H;1H2
